US07179839B2
4-FLUORO-N-[4-(3-TRIFLUOROMETHYL-PHENYL)-INDAN-2-YL]-BENZAMIDE
150 mg (0.45 mmoles) 4-bromo-N-indan-2-yl-4-fluoro-benzamide, 102 mg (0.54 mmoles) 3-trifluoromethylbenzeneboronic acid, 211 mg (0.67 mmoles) barium hydroxide octahydrate and 20 mg tetrakis-triphenylphosphine-palladium were suspended in 10 ml 1,2-dimethoxyethane and 10 ml water and heated to reflux for 7 h. Subsequently, the reaction mixture was evaporated to dryness, the residue taken up in methylenchloride and extracted twice with water. The oil remaining after evaporation of the organic phase was purified using prep. HPLC chromatography. (RP18, acetonitrile/water, 1% trifluoroacetic acid). 80 mg (45%) of the title compound were obtained.

reactant | 4-bromo-N-indan-2-yl-4-fluoro-benzamide | 0.45 mmoles, 150 mg | BrC1(CC=C(C(=O)NC2CC3=CC=CC=C3C2)C=C1)F | C16H15BrFNO
reactant | 3-trifluoromethylbenzeneboronic acid | 0.54 mmoles, 102 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | barium hydroxide octahydrate | 0.67 mmoles, 211 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | water | 10 ml | O | H2O
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 4-FLUORO-N-[4-(3-TRIFLUOROMETHYL-PHENYL)-INDAN-2-YL]-BENZAMIDE | 80 mg, 45% | FC1=CC=C(C(=O)NC2CC3=CC=CC(=C3C2)C2=CC(=CC=C2)C(F)(F)F)C=C1 | C23H17F4NO
